US08624034B2
Step D) (2R)-4-{5-Fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid
The title compound (144 mg, 28.4%) was prepared as an off-white solid from ethyl (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate (538 mg, 1.09 mmol) using a procedure analogous to that described for (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid, Example 26, Step C. MS (LCMS) m/z 467.1 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.57 (s, 3H) 2.12-2.27 (m, 1H) 3.17 (s, 3H) 3.85-4.11 (m, 2H) 6.55 (d, J=7.61 Hz, 1H) 7.24-7.35 (m, 2H) 7.44-7.66 (m, 4H) 8.07 (d, J=6.44 Hz, 1H).

reactant | ethyl (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate | 1.09 mmol, 538 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)C1=CC(=CC=C1)OC=1SC=CN1 | C22H23FN2O6S2
reactant | (2R)-4-{5-fluoro-2-oxo-4-[4-(2H-1,2,3-triazol-2-yl)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid | FC=1C(=CC(N(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)N1N=CC=N1 | C19H19FN4O5S
product | (2R)-4-{5-Fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid | 144 mg, 28.4% | FC=1C(=CC(N(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C)=O)C1=CC(=CC=C1)OC=1SC=CN1 | C20H19FN2O6S2
